US04406828
In a 2-liter flask provided with a thermometer, stirrer, dropping funnel and reflux condenser 600 ml of absolute alcohol are treated portionwise while stirring with 30 g of sodium metal and the mixture is held at reflux temperature until the metal has dissolved. Within 0.5 hour there is added dropwise to the boiling solution a mixture of 117.2 g of benzyl cyanide and 153.2 g of ethyl propionate and the mixture is heated for a further 3 hours. The alcohol is then distilled off and there are added 300 ml of toluene, followed by 250 ml of ice/water. The aqueous phase is separated, washed with 300 ml of toluene and then 540 g of 96% sulphuric acid are added. The mixture is held at reflux temperature until the evolution of carbon dioxide ceases, cooled, diluted with 250 ml of ice/water and extracted with two 300 ml portions of toluene. The toluene extracts are washed with water, with 10% sodium carbonate solution and again with water, dried over sodium sulphate and evaporated. Distillation gives 79 g of ethyl benzyl ketone of boiling point 69° C./3 mmHg; nD20 =1.5109; yield 53%.

reactant | sodium | 30 g | [Na] | Na
reactant | benzyl cyanide | 117.2 g | C(C1=CC=CC=C1)C#N | C8H7N
reactant | ethyl propionate | 153.2 g | C(CC)(=O)OCC | C5H10O2
product | ethyl benzyl ketone | 79 g, yield 53% | C(C1=CC=CC=C1)C(=O)CC | C10H12O
